US09120749B2
1-{6-(3-Chloro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one
Following general procedure D, 1-{6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one (30 mg, 0.068 mmol) was reacted with 3-chloro-4-hydroxyphenylboronic acid (17 mg, 0.100 mmol) to afford the desired product (18.9 mg, 56%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 8.75 (s, 1H), 8.28 (d, J=1.2 Hz, 1H), 8.06-7.99 (m, 2H), 7.70 (d, J=2.3 Hz, 1H), 7.54 (dd, J=8.4, 2.3 Hz, 1H), 7.06 (d, J=8.4 Hz, 1H), 3.54-3.41 (m, 3H), 3.23-3.11 (m, 6H), 3.03 (d, J=6.8 Hz, 2H), 2.11-1.93 (m, 7H), 1.74-1.62 (m, 2H), 1.26 (d, J=6.9 Hz, 6H); ESI MS m/z 492 [C29H34ClN3O2+H]+; HPLC>99% (AUC), tR=10.93 min.

reactant | 1-{6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one | 0.068 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N1CCC(CC1)CN1CCCC1 | C23H30BrN3O
reactant | 3-chloro-4-hydroxyphenylboronic acid | 0.100 mmol, 17 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | 1-{6-(3-Chloro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one | 18.9 mg, 56% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N1CCC(CC1)CN1CCCC1 | C29H34ClN3O2
